US08426411B2
To a solution of 5-(2-(1,3-dioxolan-2-yl)ethyl)-N-cyclohexyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-amine (0.209 g, 0.445 mmol) in EtOH (2 mL) was added aqueous HCl (12 N, 0.186 mL, 2.23 mmol) dropwise. The mixture was heated at about 40° C. for about 2 h and then cooled to about 0° C. in an ice bath. Sodium borohydride (0.118 g, 3.12 mmol) was added portionwise and the mixture was warmed to ambient temperature. After about 2 h the solvent was removed under reduced pressure and the residue was partitioned between EtOAc and saturated aqueous NaHCO3 (10 mL each). The aqueous phase was extracted with EtOAc (2×5 mL) and the combined organics were washed with water and brine (5 mL each), dried over anhydrous Na2SO4, filtered and concd under reduced pressure. The residue was purified by silica gel chromatography eluting with 0-50% EtOAc in heptane to give 1-cyclohexyl-7-tosyl-2,3,4,7-tetrahydro-1H-pyrrolo[2,3-h]-[1,6]naphthyridine (0.138 g, 75%) as a white solid: LC/MS (Table 1, Method b) Rt=3.01 min; MS m/z: 410 (M+H)+.

reactant | 5-(2-(1,3-dioxolan-2-yl)ethyl)-N-cyclohexyl-1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-amine | 0.445 mmol, 0.209 g | O1C(OCC1)CCC1=C(C2=C(N=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CCCCC2 | C25H31N3O4S
reactant | HCl | 2.23 mmol, 12 N, 0.186 mL | Cl | ClH
reactant | Sodium borohydride | 3.12 mmol, 0.118 g | [BH4-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 1-cyclohexyl-7-tosyl-2,3,4,7-tetrahydro-1H-pyrrolo[2,3-h]-[1,6]naphthyridine | 0.138 g, 75% | C1(CCCCC1)N1CCCC2=CN=C3C(=C12)C=CN3S(=O)(=O)C3=CC=C(C)C=C3 | C23H27N3O2S
